US04093617
3-Bromo-5,7-di-n-butylpyrazolo[1,5-a]pyrimidine
A solution of 7.0 g (0.03 mol) of 5,7-di-n-butylpyrazolo[1,5-a]-pyrimidine in 75 ml chloroform was treated with 5.8 g (0.035 mol) of N-bromosuccinimide at room temperature. The mixture was stirred for 5-10 minutes, then poured into ice water, made alkaline with 6N NaOH, and the organic layer separated and dried (Na2SO4). The chloroform solution was chromatographed on neutral alumina (Woelm, grade I) with chloroform as the eluant. Evaporation of the solvent and recrystallization from ligroine gave 7.15 g (72%) of the product, mp 47°-48° C.

reactant | 5,7-di-n-butylpyrazolo[1,5-a]-pyrimidine | 0.03 mol, 7.0 g | C(CCC)C1=NC=2N(C(=C1)CCCC)N=CC2 | C14H21N3
reactant | N-bromosuccinimide | 0.035 mol, 5.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-5,7-di-n-butylpyrazolo[1,5-a]pyrimidine | 7.15 g, 72% | BrC=1C=NN2C1N=C(C=C2CCCC)CCCC | C14H20BrN3
